US08431575B2
3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine dihydrochloride
3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine was dissolved in 4.0 M HCl in dioxane (2 mL) and evaporated the solvent to provide the title compound (59 mg). LCMS: m/z 475 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.29 (2H, d), 7.04 (2H, d), 6.97 (1H, s), 4.80 (1H, dd), 4.48-4.36 (2H, m), 3.16-3.06 (1H, m), 2.92-2.86 (3H, m), 2.76-2.60 (1H, m), 2.48-2.32 (5H, m), 2.16-2.04 (2H, m), 2.02-1.98 (2H, m), 1.82-1.78 (2H, m), 1.62-1.20 (10H, m), 0.79 (3H, t).

reactant | 3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1CN(CCC1(F)F)C | C27H37F2N3O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine dihydrochloride | 59 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1CN(CCC1(F)F)C | InChI=1S/C27H37F2N3O2.2ClH/c1-3-4-10-25-24(20-11-13-23(14-12-20)34-22-8-6-5-7-9-22)17-26(31-30-25)33-19-21-18-32(2)16-15-27(21,28)29;;/h11-14,17,21-22H,3-10,15-16,18-19H2,1-2H3;2*1H
